US07713994B2
3′-Dimethylaminomethyl-2-methoxymethoxy-biphenyl-4-carbonitrile
3′-Formyl-2-methoxymethoxy-biphenyl-4-carbonitrile (128 mg, 0.48 mmol) is dissolved in CH2Cl2 (5 mL), and to which dimethylamine (2 mL, 2 M solution in THF, 4 mmol) is added. Triacetylborohydride (300 mg, 1.59 mmol) is added and the mixture is stirred at room temperature for 1 hour before it is quenched with ice water. The organic layer is washed with NH4OH and dried over Na2SO4. After concentration, the residue is directly used in the next step. MS (ESI): 297 (M+1)+1.

reactant | 3′-Formyl-2-methoxymethoxy-biphenyl-4-carbonitrile | 0.48 mmol, 128 mg | C(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)C#N)OCOC | C16H13NO3
reactant | dimethylamine | 4 mmol, 2 M, 2 mL | CNC | C2H7N
reactant | Triacetylborohydride | 1.59 mmol, 300 mg | C(C)(=O)[BH-](C(C)=O)C(C)=O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3′-Dimethylaminomethyl-2-methoxymethoxy-biphenyl-4-carbonitrile | CN(C)CC=1C=C(C=CC1)C1=C(C=C(C=C1)C#N)OCOC | C18H20N2O2
